US07423159B2
A mixture of 2-(4-nitrophenyl)acetohydrazide (2.50 g), triethyl orthoformate (5.69 g), methanesulfonic acid (0.25 g) and tetrahydrofuran (50 mL) was heated under reflux for 1 hr. The reaction mixture was diluted with ethyl acetate. The mixture was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and 2-(4-nitrobenzyl)-1,3,4-oxadiazole was obtained as pale-yellow crystals (1.92 g, yield 73%) from a fraction eluted with hexane-ethyl acetate (3:1-1:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 104-105° C.

reactant | 2-(4-nitrophenyl)acetohydrazide | 2.50 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)NN | C8H9N3O3
reactant | triethyl orthoformate | 5.69 g | C(OCC)(OCC)OCC | C7H16O3
reactant | methanesulfonic acid | 0.25 g | CS(=O)(=O)O | CH4O3S
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-nitrobenzyl)-1,3,4-oxadiazole | [N+](=O)([O-])C1=CC=C(CC=2OC=NN2)C=C1 | C9H7N3O3
